US07910618B2
9-Phthalimidononan-1-ol
A stirred mixture of 9-bromononanol (Aldrich)(1.0 g, 4.5 mmol), phthalimide potassium derivative (1.85 g, 10 mmol) and DMF (10 ml) was heated at 100° C. for 1 hour. The mixture was allowed to cool to room temperature and was partitioned between ethyl acetate and water. The organic layer was washed with water, brine, dried over magnesium sulfate and evaporated under reduced pressure to afford the title compound as a white solid, 1.53 g, quantitative yield. m/z (LCMS ES+, 70 v) 290.1 (MH+), 312.1 (MNa+). δH (CHCl3-d) 7.81 (2H, m), 7.73 (2H, m), 3.64 (4H, m), 1.68 (2H, m), 1.59 (2H, m), 1.32 (10H, m). Intermediate 27

reactant | 9-bromononanol | 4.5 mmol, 1.0 g | BrCCCCCCCCCO | C9H19BrO
reactant | phthalimide potassium | 10 mmol, 1.85 g | [K].C1(C=2C(C(N1)=O)=CC=CC2)=O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 9-Phthalimidononan-1-ol | quantitative yield | C1(C=2C(C(N1CCCCCCCCCO)=O)=CC=CC2)=O | C17H23NO3
